* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=9.26177732203e-11
.param C2=6.21525093856e-10
.param Ce=7.37190755621e-11
.param Ch=5.47591680141e-10
.param Csh=1.45824892624e-11
.param L1=2.82124290615e-07
.param Lh=3.23870157034e-08
.param Lp=2.02540794098e-08
.param Rp=43.9484613276
.param Vsrc_amp=529.177382047
.param ne=1.13430327473e+15
.param nu_m=193451589.338

* Sources
Vsrc src 0 SIN(0 529.177382047 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: plasma_fixed_rlc
.subckt load_model p n
Rbulk p nb 43.9484613276
Lbulk nb ns 2.02540794098e-08
Csh ns n 1.45824892624e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
